US08084620B2
Step 1 A suspension of 5-fluoro-2-methylbenzoic acid (500 mg, 3.24 mmol), N-bromosuccinimide (606 mg, 3.41 mmol) and benzoyl peroxide (47 mg, 0.195 mmol) in tetrachloromethane (10 mL) was heated at 78° C. for 4 h. The hot mixture was filtered and the filtrate was concentrated to provide crude 2-(bromomethyl)-5-fluorobenzoic acid as a white solid (730 mg), used without further purification. 1H NMR (400 MHz, chloroform-d) δ 7.81 (1H, dd, J=9.2, 2.9 Hz), 7.50 (1H, dd, J=8.5, 5.4 Hz), 7.23-7.30 (1H, m), 4.98 (2H, s).

reactant | 5-fluoro-2-methylbenzoic acid | 3.24 mmol, 500 mg | FC=1C=CC(=C(C(=O)O)C1)C | C8H7FO2
reactant | N-bromosuccinimide | 3.41 mmol, 606 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 10 mL | ClC(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.195 mmol, 47 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(bromomethyl)-5-fluorobenzoic acid | 730 mg | BrCC1=C(C(=O)O)C=C(C=C1)F | C8H6BrFO2
